US04207341
6.0 g Quinoline-8-carbonyl chloride (m.p. 156°-160° C.) are added to 6.0 g ethyl 2-[4-(2-aminoethyl)-phenyl]-propionate hydrochloride in 50 ml methylene chloride and a solution of 7 ml triethylamine in 20 ml methylene chloride slowly added dropwise at 0° C. The reaction mixture is thereafter stirred for 2 hours at ambient temperature, subsequently shaken out 6 times with 2 N aqueous sodium hydroxide solution and twice with 2 N hydrochloric acid, and the methylene chloride phase is then dried and evaporated. The residue is taken up with diethyl ether, undissolved material is filtered off and the diethyl ether is evaporated. Ethyl 2-{4-[2-(quinoline-8-carboxamido)-ethyl]-phenyl}-propionate (oil) remains behind in a yield of 8.0 g (91% of theory). This ester is saponified with 2.0 g sodium hydroxide in 50 ml 80% ethanol by heating under reflux for 2 hours. The reaction mixture is thereafter evaporated to dryness, the residue is taken up in water and diethyl ether, the layers are separated and the aqueous layer acidified. The 2-{4-[2-(quinoline-8-carboxamido)-ethyl]-phenyl}-propionic acid obtained is again reprecipitated by dissolving in dilute aqueous sodium bicarbonate solution and acidifying with hydrochloric acid, whereafter it is recrystallized from 50% isopropanol and then from toluene. The yield is 2.3 g (31% of theory); m.p. 143°-144° C.

reactant | Quinoline-8-carbonyl chloride | 6.0 g | N1=CC=CC2=CC=CC(=C12)C(=O)Cl | C10H6ClNO
reactant | ethyl 2-[4-(2-aminoethyl)-phenyl]-propionate hydrochloride | 6.0 g | Cl.NCCC1=CC=C(C=C1)C(C(=O)OCC)C
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-{4-[2-(quinoline-8-carboxamido)-ethyl]-phenyl}-propionic acid | N1=CC=CC2=CC=CC(=C12)C(=O)NCCC1=CC=C(C=C1)C(C(=O)O)C | C21H20N2O3
